US04168269
9,10-Dihydro-4-n-hexyl-9-methyl-4H-thieno[3,4-b][1,5] benzodiazepine
To a reaction mixture comprising 3.6 g. of 4,9-dihydro-4-hexanoyl-9-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one in 100 ml. of tetrahydrofuran is added, over a 15 minute period, with stirring, in an ice bath, under nitrogen, 90 ml. of 1M-borane. The reaction mixture is then refluxed with stirring for 19 hours. The mixture is cooled in an ice bath and 30 ml. of 6N hydrochloric acid is added dropwise with stirring. The tetrahydrofuran is removed by distillation and 23 g. of sodium hydroxide pellets are carefully added in the cold with stirring. A 15 ml. portion of water is added and the mixture is extracted with three 150 ml. portions of benzene. The benzene extracts are combined, washed with water, dried over sodium sulfate, filtered and concentrated to an oil. This crude product is dissolved in 10 ml. of 20% methylene chloride in hexane and chromatographed on an alumina column, eluting with the same solvent system. The first 150 ml. of eluent is discarded, then 100 ml. fractions are collected. Fractions 1-5 are combined and concentrated to an oil. The oil is extracted with ether repeatedly. The ether extracts are combined, washed with water, dried over sodium sulfate, filtered and concentrated to a residue. The residue is dissolved in 10 ml. of ether and shaken with 25 ml. of 1N sodium hydroxide. The ether is washed with water, dried over sodium sulfate, filtered and concentrated to residue. This residue is dissolved in 25 ml. of methylene chloride and purified by chromatography on a magnesol column, eluting with methylene chloride. The eluant is concentrated giving the desired product as a dark amber oil.

reactant | 4,9-dihydro-4-hexanoyl-9-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C(CCCCC)(=O)N1C=2C(C(N(C3=C1C=CC=C3)C)=O)=CSC2 | C18H20N2O2S
reactant | borane | B | BH3
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9,10-Dihydro-4-n-hexyl-9-methyl-4H-thieno[3,4-b][1,5] benzodiazepine | C(CCCCC)N1C=2C(CN(C3=C1C=CC=C3)C)=CSC2 | C18H24N2S
